US06235731B1
1) Synthesis of N-[1-(phenylaminocarbonylmethyl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
To a solution of 581 mg (1.5 mM) of N-(piperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride and 759 mg (7.5 mM) of triethylamine in ethanol (30 ml) was added 254 mg (1.5 mM) of chloroacetylaniline at room temperature, and the mixture was refluxed for 18 hours. The solvent was then distilled off under reduced pressure and the residue was diluted with water and extracted with methylene chloride. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over Na2SO4. The resulting crude product was purified by column chromatography (methanol/ethyl acetate=½) to provide the title compound as red oil.

reactant | N-(piperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 1.5 mM, 581 mg | Cl.Cl.N1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32
reactant | triethylamine | 7.5 mM, 759 mg | C(C)N(CC)CC | C6H15N
reactant | chloroacetylaniline | 1.5 mM, 254 mg | ClCC(=O)NC1=CC=CC=C1 | C8H8ClNO
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-[1-(phenylaminocarbonylmethyl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C1(=CC=CC=C1)NC(=O)CN1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C24H25N5O2S
